US09428503B2
Intermediate C6: Ethyl 6-bromo-7-fluoro-4-oxo-1H-quinoline-3-carboxylate
A solution of diethyl 2-[[(4-bromo-3-fluorophenyl)amino]methylidene]propanedioate (90 g, 249.88 mmol) in diphenyl ether (600 mL, 3.79 mol) was stirred at 240° C. for 2.5 h. The mixture was allowed to cool to 70° C., the solids collected by filtration and dried in a vacuum oven to afford the desired material (50 g, 64%) as a white solid which was used without further purification. NMR Spectrum: 1H NMR (500 MHz, DMSO-d6, (100° C.)) δ 1.26-1.33 (3H, m), 4.25 (2H, q), 7.52 (1H, d), 8.37 (1H, d), 8.48 (1H, s), 12.05 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=314.

reactant | diethyl 2-[[(4-bromo-3-fluorophenyl)amino]methylidene]propanedioate | 249.88 mmol, 90 g | BrC1=C(C=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC)F | C14H15BrFNO4
reactant | diphenyl ether | 3.79 mol, 600 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 6-bromo-7-fluoro-4-oxo-1H-quinoline-3-carboxylate | 50 g, 64% | BrC=1C=C2C(C(=CNC2=CC1F)C(=O)OCC)=O | C12H9BrFNO3
